US07691869B2
To a solution of the title D compound of Example 1, 2-{5-amino-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-7-yl}ethyl methanesulfonate (0.06 g, 0.165 mmol) in dry DMF (5 mL), the title A compound, 1-(2,4-difluorophenyl)-1,4-diazepane (0.33 mmol) and 0.06 mL of DIEA are added, and the solution is stirred at 100° C. for 5 h. The reaction mixture is cooled to RT, and the solvent is removed under reduced pressure. The crude product is purified by flash chromatography using a 95/5.0/0.5-mixture of DCM/MeOH/NH4OH as eluent to give 7-(2-(4-(2,4-difluorophenyl)-1,4-diazepan-1-yl)ethyl)-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5-amine: LC/MS (M+1=479.01). 1H NMR (DMSO-d6, 400 MHz) δ 1.82 (m, 2H), 2.71 (m, 2H), 2.82 (m, 2H), 2.88 (t, 2H, J=6.4 Hz), 3.24 (m, 4H), 4.22 (t, 2H, J=6.4 Hz), 6.57 (d, 1H, J=3.6 Hz), 6.71 (m, 1H), 6.85-6.94 (m, 2H), 7.09 (m, 1H), 7.14 (d, 1H, J=3.6 Hz), 7.19 (d, 1H, J=3.2 Hz), 7.51 (brs, 2H, NH2), 7.92 (s, 1H).

reactant | 2-{5-amino-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-7-yl}ethyl methanesulfonate | 0.165 mmol, 0.06 g | CS(=O)(=O)OCCN1C=CC=2C=3N(C(=NC21)N)N=C(N3)C=3OC=CC3 | C14H14N6O4S
reactant | 1-(2,4-difluorophenyl)-1,4-diazepane | 0.33 mmol | FC1=C(C=CC(=C1)F)N1CCNCCC1 | C11H14F2N2
reactant | DIEA | 0.06 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 7-(2-(4-(2,4-difluorophenyl)-1,4-diazepan-1-yl)ethyl)-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5-amine | FC1=C(C=CC(=C1)F)N1CCN(CCC1)CCN1C=CC=2C=3N(C(=NC21)N)N=C(N3)C=3OC=CC3 | C24H24F2N8O
